US05883283
Preparation of 3-amino-2-isopropylthiobenzonitrile
6 liters of dimethylformamide are added to 50 g of nickel chloride dihydrate, 200 g of BPPFA (1,1'-bisdiphenylphosphine-1-(dimethylaminoethyl)ferrocene) and 49 g of manganese powder, and the mixture is stirred at 50° C. for 2 hours under an inert atmosphere. A brown suspension forms. 1,200 g of 3-chloro-2-isopropylthioaniline and 430 g of KCN are added to the suspension and the mixture is stirred for 16 hours at 50° C. After working up, white crystals of m.p. 82° C. are obtained in a yield of approximately 90%.

reactant | 3-chloro-2-isopropylthioaniline | 1,200 g | ClC=1C(=C(N)C=CC1)SC(C)C | C9H12ClNS
reactant | KCN | 430 g | [C-]#N.[K+]
catalyst | nickel chloride dihydrate | 50 g | O.O.[Ni](Cl)Cl
catalyst | manganese | 49 g | [Mn] | Mn
solvent | dimethylformamide | 6 liters | CN(C=O)C | C3H7NO
product | 3-amino-2-isopropylthiobenzonitrile | yield of approximately 90% | NC=1C(=C(C#N)C=CC1)SC(C)C | C10H12N2S
